US05124343
At -30° C., 265 ml of 1.66-molar butyllithium solution in hexane is added to a solution of 44.52 g of diisopropylamine in 200 ml of tetrahydrofuran, and thereafter 20.02 g of cyclohexanecarboxylic acid is added thereto. The mixture is stirred for 30 minutes at -10° C. and then 31.92 g of 1-bromo-2-butyne is added dropwise and the mixture is agitated for 16 hours at 25° C. whereupon it is poured on 600 ml of ice water. After acidifying with 2N hydrochloric acid to pH 4, the mixture is extracted with ether, the extract is washed with brine, dried over magnesium sulfate, and the the evaporated under vacuum. The residue is purified by distillation, thus obtaining 18 g of 2,2-trimethylenehex-4-ynoic acid (bp 140° C.-143° C., 15 torr).

reactant | butyllithium | 1.66-molar, 265 ml | C(CCC)[Li]
reactant | diisopropylamine | 44.52 g | C(C)(C)NC(C)C | C6H15N
reactant | cyclohexanecarboxylic acid | 20.02 g | C1(CCCCC1)C(=O)O | C7H12O2
reactant | 1-bromo-2-butyne | 31.92 g | BrCC#CC | C4H5Br
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2,2-trimethylenehex-4-ynoic acid | 18 g | CC#CCC1(CCC1)C(=O)O | C9H12O2
